US09238639B2
A) (4-Methyl-2-(trifluoromethyl)pyrimidin-5-yl)methanol
To a mixture of ethyl 4-methyl-2-(trifluoromethyl)pyrimidine-5-carboxylate (122.4 mg) in toluene (5.1 mL) was added diisobutylaluminum hydride (1.0 mol/L in hexane, 1.150 mL) at 0° C. The mixture was stirred at 0° C. under nitrogen atmosphere for 2.5 h, and then at room temperature for 2 h. To the mixture was added diisobutylaluminum hydride (1.0 mol/L in hexane, 0.58 mL) again at 0° C. and the mixture was stirred at 0° C. for 2 h. To the mixture was added sodium sulfate decahydrate (556 mg), and the mixture was stirred at room temperature overnight. The mixture was filtered through on the pad of Celite®. The filtrate was concentrated in vacuo to give the title compound (97.6 mg).

reactant | ethyl 4-methyl-2-(trifluoromethyl)pyrimidine-5-carboxylate | 122.4 mg | CC1=NC(=NC=C1C(=O)OCC)C(F)(F)F | C9H9F3N2O2
reactant | diisobutylaluminum hydride | 1.0 mol/L, 1.150 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminum hydride | 1.0 mol/L, 0.58 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate decahydrate | 556 mg | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5.1 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Methyl-2-(trifluoromethyl)pyrimidin-5-yl)methanol | 97.6 mg | CC1=NC(=NC=C1CO)C(F)(F)F | C7H7F3N2O
